US09029374B2
4-fluoro-N-methylaniline (82 mg, 0.66 mmol) was reacted with 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (90 mg, 0.16 mmol) using a procedure similar to the one described in example 3.00 to give N-(2-(dimethylamino)ethyl)-8-(1-((4-fluorophenyl)(methyl)amino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (39.0 mg, 46.4%) as a white solid. Mass Spectrum: M+H+ 511. NMR Spectrum: (DMSOd6) at 323° K: 1.55 (d, 3H), 2.04 (bs, 6H), 2.40 (bs, 2H), 2.68 (s, 3H), 2.93 (s, 3H), 3.22-3.36 (m, 4H), 3.37 (bs, 2H), 3.44-3.58 (m, 4H), 5.45 (q, 1H), 5.50 (s, 1H), 6.82 (dd, 2H), 7.01 (dd, 2H), 7.56 (d, 1H), 7.83 (d, 1H).

reactant | 4-fluoro-N-methylaniline | 0.66 mmol, 82 mg | FC1=CC=C(NC)C=C1 | C7H8FN
reactant | 8-(1-bromoethyl)-N-(2-(dimethylamino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.16 mmol, 90 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)CCN(C)C
product | N-(2-(dimethylamino)ethyl)-8-(1-((4-fluorophenyl)(methyl)amino)ethyl)-N-methyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 39.0 mg, 46.4% | CN(CCN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C(C)N(C)C1=CC=C(C=C1)F)N1CCOCC1)=O)C)C | C28H35FN4O4
